US07687511B2
5-methoxycarbonyl-4-(2-methoxy-6-pentadecylphenyl)-6-methyl-3,4-dihydropyrimidin-2(1H)-one (PPK-24)
A solution of methylacetoacetate (1.2 g, 8.5 mmol), 2-methoxy-6-pentadecyl benzaldehyde (3.1 g, 8.5 mmol) and urea (1.00 g, 17 mmol) in tetrahydrofuran (20 mL) was heated to reflux (65-70° C.) in the presence of hydrochloric acid (30%) for 7 h. The reaction mixture after being cooled to room temperature was poured into crushed ice (20 g) and stirred for 5 min. The viscous liquid was extracted with ethylacetate (40 mL) and was washed with 1N hydrochloric acid, water, sodium bicarbonate and brine. After drying over anhydrous sodium sulfate, the solvent was evaporated to yield light yellow oil. This crude product was purified by flash column chromatography and recrystallized from hexane to get white crystalline solid of title compound.

reactant | methylacetoacetate | 8.5 mmol, 1.2 g | COC(CC(=O)C)=O | C5H8O3
reactant | 2-methoxy-6-pentadecyl benzaldehyde | 8.5 mmol, 3.1 g | COC1=C(C=O)C(=CC=C1)CCCCCCCCCCCCCCC | C23H38O2
reactant | urea | 17 mmol, 1.00 g | NC(=O)N | CH4N2O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 5-methoxycarbonyl-4-(2-methoxy-6-pentadecylphenyl)-6-methyl-3,4-dihydropyrimidin-2(1H)-one | COC(=O)C=1C(NC(NC1C)=O)C1=C(C=CC=C1CCCCCCCCCCCCCCC)OC | C29H46N2O4
